US04729986
Preparation of bis(4-Fluorophenyl)methyl(5-methylthiocarbonyl-1H-1,2,4-triazol-1-ylmethyl)silane
To a -78° C. solution of 0.016 mol of lithio[bis(4-fluorophenyl)methyl(1H-1,2,4-triazol-1-ylmethyl)silane, prepared in 75 mL of THF as described in Example 1, was added 1 mL of liquid carbonyl sulfide. The solution was allowed to warm to 0° over 1 hour, and 1.0 mL (0.016 mol) of iodomethane was added. The reaction mixture was stored at 25° for 3 days, then poured into saturated aqueous NH4Cl. The aqueous layer was extracted twice with ether, and the combined organic layers were dried (MgSO4) and evaporated to give 5.2 g of the title compound as a yellow oil: nD 1.5694; ir (neat) 1710 (w), 1663; nmr (CDCl3) δ 0.7 (3H, s), 2.3 (3H, s), 4.6 (2H, s), 7.0 (4H, m), 7.4 (4H, m), 7.8 (1H, s).

reactant | bis(4-fluorophenyl)methyl(1H-1,2,4-triazol-1-ylmethyl)silane | FC1=CC=C(C=C1)[Si](CN1N=CN=C1)(C)C1=CC=C(C=C1)F | C16H15F2N3Si
reactant | carbonyl sulfide | C(=O)=S | COS
reactant | iodomethane | 0.016 mol, 1.0 mL | IC | CH3I
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | bis(4-Fluorophenyl)methyl(5-methylthiocarbonyl-1H-1,2,4-triazol-1-ylmethyl)silane | 5.2 g | FC1=CC=C(C=C1)[Si](CN1N=CN=C1C(=S)C)(C)C1=CC=C(C=C1)F | C18H17F2N3SSi
